US04992459
Reaction of 3,5-dichlorobenzaldehyde (26.9 g, 0.154 mole), malonic acid (24.1 g, 0.232 mole), pyridine (8 ml) and piperidine (0.4 ml) substantially as above yielded 22.9 g (69%) of 3,5-dichlorocinnamic acid as white needles: mp 169-170° (ethanol).

reactant | 3,5-dichlorobenzaldehyde | 0.154 mole, 26.9 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | malonic acid | 0.232 mole, 24.1 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-dichlorocinnamic acid | 22.9 g, 69% | ClC=1C=C(C=CC(=O)O)C=C(C1)Cl | C9H6Cl2O2
